US06218404B1
N-(5-(4-Benzylpiperidin-1-yl)valeroyl)-N′-(4-nitrobenzoyl)hydrazine
To a solution of 5-(4-benzylpiperidin-1-yl)valerhydrazide (289 mg, 1.00 mmol) in 10 mL of CH2Cl2 and 0.21 mL of Et3N was added 4-nitrobenzoyl chloride (278 mg, 1.50 mmol). The resulting solution was allowed to stir at rt for 12 hr. The mixture was poured into ice water (10 g). The organic layer was separated and the water phase was extracted with CH2Cl2 (2×15 mL). The combined organic extracts were dried over Na2SO4. Evaporation of solvent gave the title product as a brown oil (405 mg, 92%): 1H NMR (CDCl3) 1.25 (m, 2 H), 1.60 (m, 6 H), 1.90 (m, 2 H), 2.29 (m, 4 H), 2.48 (d, J=6.6 Hz, 2 H), 2.90 (m, 2 H), 3.42 (s, 1 H), 7.07-7.24 (m 5 H), 7.70 (bs, 2 H), 7.96 (d, J=7.8 Hz, 2 H), 8.08 (d, J=7.8 Hz, 2 H).

reactant | 5-(4-benzylpiperidin-1-yl)valerhydrazide | 1.00 mmol, 289 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCCCC(=O)NN | C17H27N3O
reactant | 4-nitrobenzoyl chloride | 1.50 mmol, 278 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.21 mL | CCN(CC)CC | C6H15N
product | N-(5-(4-Benzylpiperidin-1-yl)valeroyl)-N′-(4-nitrobenzoyl)hydrazine | 405 mg, 92% | C(C1=CC=CC=C1)C1CCN(CC1)CCCCC(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C24H30N4O4
